US06495686B2
E. 4-(N,N-Dipropyl)amino-2-methyl-10-(2,4,6-trimethylphenyl)-pyrido[2′,3′:4,5]pyrrolo[1,2-a]pyrazine
To a solution of 4-Chloro-2-methyl-10-(2,4,6-trimethylphenyl)pyrido-[2′,3′:4,5]pyrrolo[1,2-a]pyrazine (23 mg) in DMSO (0.5 mL) is added dipropylamine (0.1 mL) and the resulting mixture is heated at 130° C. for 3.5 days. The mixture is then allowed to cool to room temperature, diluted with aqueous ammonium chloride, and extracted twice with ethyl ether. The extracts are combined, washed with saturated brine, dried (Na2SO4), filtered, concentrated in vacuo, and chromatographed (10 to 20% ethyl acetate in hexane) to give 14.3 mg of the title compound (compound 6, Table 1) as a yellow, glassy oil: 0.90 (t, 6 H), 1.6 (m, 4 H), 2.03 (s, 6 H), 2.38 (s, 3 H), 2.62 (s, 3 H), 3.2 (br, 4 H), 6.81 (s, 1 H), 7.02 (s, 2 H), 7.60 (d, 2 H), 8.6 (m, 2 H).

reactant | 4-Chloro-2-methyl-10-(2,4,6-trimethylphenyl)pyrido-[2′,3′:4,5]pyrrolo[1,2-a]pyrazine | 23 mg | ClC1=CC(=NC=2C(=C3N(C=CN=C3)C21)C2=C(C=C(C=C2C)C)C)C | C20H18ClN3
reactant | dipropylamine | 0.1 mL | C(CC)NCCC | C6H15N
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | ammonium chloride | [Cl-].[NH4+]
product | 4-(N,N-Dipropyl)amino-2-methyl-10-(2,4,6-trimethylphenyl)-pyrido[2′,3′:4,5]pyrrolo[1,2-a]pyrazine | 14.3 mg | C(CC)N(CCC)C1=CC(=NC=2C(=C3N(C=CN=C3)C21)C2=C(C=C(C=C2C)C)C)C | C26H32N4
